US04489003
A mixture of 3.6 g (10 mmol) of tert.butyl (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate, 1.7 g (7.2 mmol) of tetraethyl orthotitanate and 20 ml of 3-methoxybenzyl alcohol is stirred at 120° for 5 hours, a small amount of solvent being removed in vacuo three times during this time. The excess 3-methoxybenzyl alcohol is subsequently distilled off in a high vacuum, the residue is taken up in 30 ml of chloroform, the chloroform solution is treated with 25 ml of water, stirred for 1.25 hours and filtered through siliceous earth. The organic phase is separated, the aqueous phase is extracted once with chloroform, the combined chloroform extracts are dried over magnesium sulphate and evaporated. The crude product is chromatographed on silica gel while eluting with ethyl acetate. By recrystallization from ethyl acetate/n-hexane there is obtained m-methoxybenzyl (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][ 1,4]benzodiazepine-1-carboxylate of melting point 126°-127°.

reactant | tert.butyl (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | 10 mmol, 3.6 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC(C)(C)C)CC1)=O | C18H18ClN3O3
reactant | 3-methoxybenzyl alcohol | 20 ml | COC=1C=C(CO)C=CC1 | C8H10O2
catalyst | tetraethyl orthotitanate | 7.2 mmol, 1.7 g | CCO.CCO.CCO.CCO.[Ti]
product | m-methoxybenzyl (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][ 1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC3=CC(=CC=C3)OC)CC1)=O | C22H18ClN3O4
